US05710102
Preparation of p-[(Trifluorovinyl)dimethylsilyl]phenetole
A -30° C. solution of bromotrifluoroethylene (7.15 g, 0.044 mol) in ether is treated with p-(chlorodimethylsilyl)phenetole (9.54 g, 0.044 mol), cooled to -65° C., treated dropwise with a 1.3M solution of sec-butyllithium in cyclohexane (34.2 mL, 0.044 mol) while maintaining the temperature below -60° C., stirred at -65° C. for 5 hours, stirred at room temperature overnight, cooled to 0° C., treated with dilute hydrochloric acid, and diluted with ether. The organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue which is distilled to give the title product as a clear liquid (7.66 g, bp 84°-92° C./0.8 mm Hg).

reactant | bromotrifluoroethylene | 0.044 mol, 7.15 g | BrC(=C(F)F)F | C2BrF3
reactant | p-(chlorodimethylsilyl)phenetole | 0.044 mol, 9.54 g | Cl[Si](C1=CC=C(C=C1)OCC)(C)C | C10H15ClOSi
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 0.044 mol, 34.2 mL | C1CCCCC1 | C6H12
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | p-[(Trifluorovinyl)dimethylsilyl]phenetole | 7.66 g | FC(=C(F)F)[Si](C1=CC=C(C=C1)OCC)(C)C | C12H15F3OSi
